US04168269
4-Cyclopropylcarbonyl-9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepine hydrochloride
To 5.69 g. of 4-cyclopropylcarbonyl-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one in 100 ml. of tetrahydrofuran is added 120 ml. of 1 M borane in tetrahydrofuran under argon, with stirring in an ice bath. The mixture is refluxed for 18 hours, then chilled and 60 ml. of 6 N hydrochloric acid is cautiously added. Most of the solvent is evaporated and 100 ml. of 5 N sodium hydroxide is added. The mixture is extracted with methylene chloride, dried over magnesium sulfate and evaporated giving a gum. Excess hydrochloric acid and ethanol are added to the gum and then evaporated giving a second gum. Ethanol is added to this second gum producing crystals which are recovered giving the desired product as colorless crystals, mp. 157°-159° C. (dec.).

reactant | 4-cyclopropylcarbonyl-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C1(CC1)C(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C15H12N2O2S
reactant | borane | 1 M | B | BH3
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Cyclopropylcarbonyl-9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepine hydrochloride | Cl.C1(CC1)C(=O)N1C=2C(CNC3=C1C=CC=C3)=CSC2 | InChI=1S/C15H14N2OS.ClH/c18-15(10-5-6-10)17-13-4-2-1-3-12(13)16-7-11-8-19-9-14(11)17;/h1-4,8-10,16H,5-7H2;1H
